US08541407B2
To a solution of 6-chloro-11H-benzo[e]pyrido[3,2-b][1,4]diazepine (822 mg, 3.58 mmol) and diisopropylethylamine (2 mL) in N,N-dimethylacetamide (25 mL) was added tert-butyl 4-(hydrazinecarbonyl)phenethylcarbamate (1.0 g, 3.58 mmol). The mixture was stirred at 80° C. for 24 hours then 100° C. for an additional 48 hours. The mixture was poured into ethyl acetate (150 mL) and washed with water (2×700 mL). The organic layer was dried over anhydrous magnesium sulfate and evaporated to dryness to give a brown foam. This residue was purified by silica gel chromatography eluting with ethyl acetate in hexanes (75-80%) to give a brown foam that was crystallized from dichloromethane to yield tert-butyl 4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)phenethylcarbamate as off white crystals (717 mg). M.p.=145-148° C.; 400 MHz 1H NMR (CDCl3) δ: 8.21-8.17 (m, 2H), 7.44-7.37 (m, 3H), 7.24-7.16 (m, 3H), 7.0 (dd, J=1.6, 8.4 Hz, 2H), 6.82-6.79 (m, 1H), 6.38 (s, 1H), 4.55 (br.s, 1H), 3.42-3.37 (m, 2H), 2.84 (t, J=7.2 Hz, 2H), 1.44 (s, 9H). LCMS [M+H]: 455.

reactant | 6-chloro-11H-benzo[e]pyrido[3,2-b][1,4]diazepine | 3.58 mmol, 822 mg | ClC=1C2=C(NC3=C(N1)C=CC=N3)C=CC=C2 | C12H8ClN3
reactant | diisopropylethylamine | 2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl 4-(hydrazinecarbonyl)phenethylcarbamate | 3.58 mmol, 1.0 g | N(N)C(=O)C1=CC=C(CCNC(OC(C)(C)C)=O)C=C1 | C14H21N3O3
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 25 mL | CN(C(C)=O)C | C4H9NO
product | tert-butyl 4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)phenethylcarbamate | N=1N=C(N2C3=C(NC4=C(C21)C=CC=C4)N=CC=C3)C3=CC=C(CCNC(OC(C)(C)C)=O)C=C3 | C26H26N6O2
